US04812562
To a cooled (-25° C.) solution of 1.47 g (1.72 mM) of benzhydryl 7β-tritylamino-3-diphenylphosphoryloxy-3-cephem-4-carboxylate in 15 ml of N,N-dimethylformamide were added a solution of 0.15 g (1.89 mM) of 70% sodium hydrosulfide in 5 ml of N,N-dimethylformamide and 0.33 g (2.58 mM) of diisopropylethylamine. The mixture was stirred at -20° to -15° C. for one hour, and 0.64 g (3.44 mM) of iodoacetamide was added at the same temperature, and the mixture was stirred for one hour. After the reaction, ethyl acetate (100 ml) was added, and the mixture was washed with 0.5% hydrochloric acid (50 ml) and a saturated aqueous sodium chloride solution (50 ml×2), successively, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (eluent; benzene: ethyl acetate=1:1) to give 0.56 g of benzhydryl 7β -tritylamino-3-carbamoylmethylthio-3-cephem-4-carboxylate.

reactant | benzhydryl 7β-tritylamino-3-diphenylphosphoryloxy-3-cephem-4-carboxylate | 1.72 mM, 1.47 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H]1[C@@H]2N(C(=C(CS2)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C51H41N2O5PS
reactant | sodium hydrosulfide | 1.89 mM, 0.15 g | [SH-].[Na+]
reactant | iodoacetamide | 3.44 mM, 0.64 g | ICC(=O)N | C2H4INO
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | diisopropylethylamine | 2.58 mM, 0.33 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7β -tritylamino-3-carbamoylmethylthio-3-cephem-4-carboxylate | 0.56 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H]1[C@@H]2N(C(=C(CS2)CC(N)=O)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C41H35N3O3S2
